US07297701B2
tert-Butyl 4-[N-(5-methoxyacetamido-6-cyanoindan-1-yl)amino]benzoate
To a solution of tert-butyl 4-[N-(5-methoxyacetamido-6-bromoindan-1-yl)amino]benzoate (0.714 g, 1.50 mol) in NMP (8 ml) [1-methyl-2-pyrrolidone] was added copper (I) cyanide (0.230 g, 2.55 mmol). The reaction mixture was placed in an oil-bath preheated to 140° C. and stirred at this temperature for 2 h. More copper (I) cyanide (0.100 g, 1.10 mmol) was then added and stirring was continued for a longer 3 hours. The reaction mixture was allowed to cool to room temperature, then poured into a mixture of aqueous ammonia (d=0.88, 7 ml) and ice (˜20 ml) and the resulting brown mixture was stirred at room temperature for ˜5 min. The brown solid was collected by filtration washed with plenty of water, then suspended in dichloromethane (100 ml). The mixture was stirred at room temperature for 10 min, dried (Na2SO4), and concentrated in vacuo. Purification by column chromatography, on elution with 35% ethyl acetate in hexane, afforded an off white solid that was reprecipitated from dichloromethane-ethyl acetate/hexane: 0.328 g, (52%) m.p. 163-164° C. 1H-NMR (250 MHz, DMSO-d6, TMS) 1.50 (s, 9H, C(CH3)3), 1.85, 2.58 (2×m, 2H, indanyl 2-H), 2.89 (m, 2H, indanyl 3-H), 3.41 (s, 3H, OCH3), 4.05 (s, 2H, CH2OMe), 5.06 (m, 1H, indanyl 1-H), 6.73 (d, J=8.82 Hz, 2H, 3,5-H), 6.82 (d, J=8.37 Hz, 1H, N10—H), 7.59, 7.57 (2×s, each 1H, indanyl 4-H, 7-H), 7.66 (d, J=8.77 Hz, 2,6-H), 9.88 (s, 1H, CONH), MS (ESI, m/z) 444 {(M+Na)+, 100%}; Found: C, 68.21; H, 6.47; N, 9.81; C24H27N3O4 requires C, 68.39; H, 6.46; N, 9.97%.

reactant | tert-butyl 4-[N-(5-methoxyacetamido-6-bromoindan-1-yl)amino]benzoate | 1.50 mol, 0.714 g | COCC(=O)NC=1C=C2CCC(C2=CC1Br)NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C23H27BrN2O4
reactant | copper (I) cyanide | 2.55 mmol, 0.230 g | [Cu]C#N
reactant | copper (I) cyanide | 1.10 mmol, 0.100 g | [Cu]C#N
reactant | ammonia | 7 ml | N | H3N
solvent | NMP | 8 ml | CN1CCCC1=O | C5H9NO
product | tert-Butyl 4-[N-(5-methoxyacetamido-6-cyanoindan-1-yl)amino]benzoate | COCC(=O)NC=1C=C2CCC(C2=CC1C#N)NC1=CC=C(C(=O)OC(C)(C)C)C=C1 | C24H27N3O4
